US09061997B2
I.C. Benzyl 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoate (compound 7)
A solution of 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoic acid (41 mg, 0.1 mmol) in THF is cooled to 0° C., and benzyl alcohol (21 mg, 20 μl, 0.2 mmol) is added, along with EDCI (19 mg, 0.1 mmol) and dimethylaminopyridine (3 mg, 0.02 mmol). The reaction mixture is left to stir overnight. The organic phase is washed with water and evaporated under reduced pressure. The crude product is purified by column chromatography, using 4:1 petroleum ether:ethyl acetate, with a yield of 30 mg (60%). 1H NMR (DMSO): δ 8.16 (d, J=8 Hz, 1H), 8.04 (d, J=8 Hz, 2H), 7.83 (d, J=8 Hz, 3H), 7.68 (d, J=8 Hz, 1H), 7.46-7.25 (m, 6H), 7.38 (m, 1H), 5.30 (s, 2H), 4.28 (bs, 2H), 1.59 (bs, 2H), 1.41-1.15 (m, 6H), 0.84 (bs, 3H).

reactant | 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoic acid | 0.1 mmol, 41 mg | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)NC1=CC=C(C(=O)O)C=C1)=O | C23H24N2O5
reactant | benzyl alcohol | 0.2 mmol, 20 μl, 21 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | EDCI | 0.1 mmol, 19 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | dimethylaminopyridine | 0.02 mmol, 3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
product | Benzyl 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoate | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)NC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)=O | C30H30N2O5
